US07655666B2
To a solution of 1-methyl-1H-[1,2,3]triazole (1.33 g, 16 mmol) in THF (20 mL) at −78° C., was added dropwise n-BuLi (11 mL, 1.6M, 18 mmol). The mixture was stirred at −78° C. for 2 h before addition of Bu3SnCl (4.75 mL, 17.6 mmol). The mixture was stirred at this temperature for 1 h and at r.t. for 1 h. The mixture was concentrated in vacuo and hexanes was added. The insoluble material was removed by filtration and the filtrate was concentrated in vacuo to afford 1-methyl-5-tributylstannanyl-1H-[1,2,3]triazole (6.12 g, 82% yield) as a yellow syrup.

reactant | 1-methyl-1H-[1,2,3]triazole | 16 mmol, 1.33 g | CN1N=NC=C1 | C3H5N3
reactant | n-BuLi | 18 mmol, 1.6M, 11 mL | [Li]CCCC
reactant | Bu3SnCl | 17.6 mmol, 4.75 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-methyl-5-tributylstannanyl-1H-[1,2,3]triazole | 6.12 g, 82% yield | CN1N=NC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/3C4H9.C3H4N3.Sn/c3*1-3-4-2;1-6-3-2-4-5-6;/h3*1,3-4H2,2H3;2H,1H3;
